US08084485B2
To a stirred solution of N-methylmorpholine-N-oxide (270 mg, 2 mmol) in dry CH2Cl2 (10 mL) was added activated 4 Å molecular sieves (500 mg) at rt under N2. After stirring for 2 h this mixture was added to a mixture of tetrapropylammonium perruthenate (22 mg, 0.062 mmol) and tert-butyl (3S,5S,6S,8S)-6-hydroxy-8-(hydroxymethyl)-3-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-2,9-dimethyldecan-5-ylcarbamate (0.33 g, 0.62 mmol) in dry CH2Cl2 (20 mL). The mixture was stirred overnight and filtered through a pad of silica gel. The filtrate was washed with water and brine, evaporated, and purified by flash chromatography on silica gel to afford tert-butyl (1S,3S)-1-((2S,4S)-4-isopropyl-5-oxotetrahydrofuran-2-yl)-3-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-4-methylpentylcarbamate (120 mg, 37%). 1H NMR (400 MHz, CDCl3): δ7.93 (s, 1H), 7.60 (d, J=8.4 Hz, 1H), 7.20 (s, 1H), 6.98 (d, J=8.0 Hz, 1H), 4.46-4.38 (m, 4H), 3.89 (m, 1H), 3.29 (s, 6H), 2.86 (m, 1H), 2.58-2.52 (m, 2H), 2.18-2.2.08 (m, 5H), 1.70 (m, 2H), 1.47 (s, 9H), 1.04 (d, J=6.4 Hz, 3H), 1.00 (d, J=6.8 Hz, 3H), 0.92 (d, J=6.4 Hz, 3H), 0.89 (d, J=6.4 Hz, 3H); MS: 530 (M++1)

reactant | N-methylmorpholine-N-oxide | 2 mmol, 270 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tert-butyl (3S,5S,6S,8S)-6-hydroxy-8-(hydroxymethyl)-3-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-2,9-dimethyldecan-5-ylcarbamate | 0.62 mmol, 0.33 g | O[C@H]([C@H](C[C@@H](C(C)C)CC1=CC=C2C=NN(C2=C1)CCCOC)NC(OC(C)(C)C)=O)C[C@@H](C(C)C)CO | C30H51N3O5
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 0.062 mmol, 22 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | tert-butyl (1S,3S)-1-((2S,4S)-4-isopropyl-5-oxotetrahydrofuran-2-yl)-3-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-4-methylpentylcarbamate | 120 mg, 37% | C(C)(C)[C@@H]1C[C@H](OC1=O)[C@H](C[C@@H](C(C)C)CC1=CC=C2C=NN(C2=C1)CCCOC)NC(OC(C)(C)C)=O | C30H47N3O5
